// File: INVX1.spi.pex
// Created: Thu Jan 22 07:06:37 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// Nominal Temperature: 30C
// Circuit Temperature: 30C
// 
simulator lang=spectre
subckt PM_INVX1\%GND ( 1 7 19 23 35 41 48 )
c39 ( 48 0 ) capacitor c=0.0664593f //x=0.985 //y=0.55
c40 ( 41 0 ) capacitor c=0.258481f //x=2.09 //y=0.175
c41 ( 35 0 ) capacitor c=0.216612f //x=1.12 //y=0.175
c42 ( 26 0 ) capacitor c=0.00589014f //x=2.09 //y=0.63
c43 ( 23 0 ) capacitor c=0.00625302f //x=2.005 //y=0.715
c44 ( 22 0 ) capacitor c=0.00479851f //x=1.6 //y=0.63
c45 ( 19 0 ) capacitor c=0.0064899f //x=1.515 //y=0.715
c46 ( 14 0 ) capacitor c=0.00590583f //x=1.12 //y=0.63
c47 ( 7 0 ) capacitor c=0.146231f //x=1.97 //y=0.18
r48 (  40 41 ) resistor r=4.18529 //w=0.367 //l=0.12 //layer=li \
 //thickness=0.1 //x=1.97 //y=0.175 //x2=2.09 //y2=0.175
r49 (  38 40 ) resistor r=12.9046 //w=0.367 //l=0.37 //layer=li \
 //thickness=0.1 //x=1.6 //y=0.175 //x2=1.97 //y2=0.175
r50 (  37 38 ) resistor r=12.9046 //w=0.367 //l=0.37 //layer=li \
 //thickness=0.1 //x=1.23 //y=0.175 //x2=1.6 //y2=0.175
r51 (  35 37 ) resistor r=3.83651 //w=0.367 //l=0.11 //layer=li \
 //thickness=0.1 //x=1.12 //y=0.175 //x2=1.23 //y2=0.175
r52 (  27 48 ) resistor r=5.4201 //w=0.17 //l=0.085 //layer=li //thickness=0.1 \
 //x=2.09 //y=0.8 //x2=2.09 //y2=0.715
r53 (  27 48 ) resistor r=41.4118 //w=0.187 //l=0.605 //layer=li \
 //thickness=0.1 //x=2.09 //y=0.8 //x2=2.09 //y2=1.405
r54 (  26 48 ) resistor r=5.4201 //w=0.17 //l=0.085 //layer=li //thickness=0.1 \
 //x=2.09 //y=0.63 //x2=2.09 //y2=0.715
r55 (  25 41 ) resistor r=5.21862 //w=0.35 //l=0.175 //layer=li \
 //thickness=0.1 //x=2.09 //y=0.35 //x2=2.09 //y2=0.175
r56 (  25 26 ) resistor r=19.1658 //w=0.187 //l=0.28 //layer=li \
 //thickness=0.1 //x=2.09 //y=0.35 //x2=2.09 //y2=0.63
r57 (  24 48 ) resistor r=5.4201 //w=0.17 //l=0.085 //layer=li //thickness=0.1 \
 //x=1.685 //y=0.715 //x2=1.6 //y2=0.715
r58 (  23 48 ) resistor r=1.40859 //w=0.34 //l=0.085 //layer=li \
 //thickness=0.1 //x=2.005 //y=0.715 //x2=2.09 //y2=0.715
r59 (  23 24 ) resistor r=21.9037 //w=0.187 //l=0.32 //layer=li \
 //thickness=0.1 //x=2.005 //y=0.715 //x2=1.685 //y2=0.715
r60 (  22 48 ) resistor r=1.40859 //w=0.34 //l=0.085 //layer=li \
 //thickness=0.1 //x=1.6 //y=0.63 //x2=1.6 //y2=0.715
r61 (  21 38 ) resistor r=5.21862 //w=0.35 //l=0.175 //layer=li \
 //thickness=0.1 //x=1.6 //y=0.35 //x2=1.6 //y2=0.175
r62 (  21 22 ) resistor r=19.1658 //w=0.187 //l=0.28 //layer=li \
 //thickness=0.1 //x=1.6 //y=0.35 //x2=1.6 //y2=0.63
r63 (  20 48 ) resistor r=1.40859 //w=0.34 //l=0.085 //layer=li \
 //thickness=0.1 //x=1.205 //y=0.715 //x2=1.12 //y2=0.715
r64 (  19 48 ) resistor r=5.4201 //w=0.17 //l=0.085 //layer=li //thickness=0.1 \
 //x=1.515 //y=0.715 //x2=1.6 //y2=0.715
r65 (  19 20 ) resistor r=21.2193 //w=0.187 //l=0.31 //layer=li \
 //thickness=0.1 //x=1.515 //y=0.715 //x2=1.205 //y2=0.715
r66 (  15 48 ) resistor r=5.4201 //w=0.17 //l=0.085 //layer=li //thickness=0.1 \
 //x=1.12 //y=0.8 //x2=1.12 //y2=0.715
r67 (  15 48 ) resistor r=41.4118 //w=0.187 //l=0.605 //layer=li \
 //thickness=0.1 //x=1.12 //y=0.8 //x2=1.12 //y2=1.405
r68 (  14 48 ) resistor r=5.4201 //w=0.17 //l=0.085 //layer=li //thickness=0.1 \
 //x=1.12 //y=0.63 //x2=1.12 //y2=0.715
r69 (  13 35 ) resistor r=5.21862 //w=0.35 //l=0.175 //layer=li \
 //thickness=0.1 //x=1.12 //y=0.35 //x2=1.12 //y2=0.175
r70 (  13 14 ) resistor r=19.1658 //w=0.187 //l=0.28 //layer=li \
 //thickness=0.1 //x=1.12 //y=0.35 //x2=1.12 //y2=0.63
r71 (  7 40 ) resistor r=4.65 //w=0.17 //l=0.34 //layer=mcon //count=2 \
 //x=1.97 //y=0.18 //x2=1.97 //y2=0.18
r72 (  3 37 ) resistor r=3.1 //w=0.17 //l=0.51 //layer=mcon //count=3 //x=1.23 \
 //y=0.18 //x2=1.23 //y2=0.18
r73 (  1 7 ) resistor r=0.148714 //w=0.311 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=0.175 //x2=1.97 //y2=0.175
r74 (  1 3 ) resistor r=0.148714 //w=0.311 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=0.175 //x2=1.23 //y2=0.175
ends PM_INVX1\%GND

subckt PM_INVX1\%VDD ( 1 7 25 40 42 43 44 )
c36 ( 44 0 ) capacitor c=0.0632166f //x=1.9 //y=5.2
c37 ( 43 0 ) capacitor c=0.0616797f //x=1.03 //y=5.2
c38 ( 42 0 ) capacitor c=0.259533f //x=1.97 //y=7.58
c39 ( 40 0 ) capacitor c=0.25787f //x=1.23 //y=7.58
c40 ( 25 0 ) capacitor c=0.0289924f //x=1.96 //y=7.585
c41 ( 7 0 ) capacitor c=0.147475f //x=1.97 //y=7.58
r42 (  27 42 ) resistor r=4.23183 //w=0.7 //l=0.175 //layer=li //thickness=0.1 \
 //x=2.045 //y=7.41 //x2=2.045 //y2=7.585
r43 (  27 44 ) resistor r=56.4706 //w=0.187 //l=0.825 //layer=li \
 //thickness=0.1 //x=2.045 //y=7.41 //x2=2.045 //y2=6.585
r44 (  26 40 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=1.25 //y=7.585 //x2=1.165 //y2=7.585
r45 (  25 42 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=1.96 //y=7.585 //x2=2.045 //y2=7.585
r46 (  25 26 ) resistor r=24.7629 //w=0.367 //l=0.71 //layer=li \
 //thickness=0.1 //x=1.96 //y=7.585 //x2=1.25 //y2=7.585
r47 (  17 40 ) resistor r=4.23183 //w=0.7 //l=0.175 //layer=li //thickness=0.1 \
 //x=1.165 //y=7.41 //x2=1.165 //y2=7.585
r48 (  17 43 ) resistor r=56.4706 //w=0.187 //l=0.825 //layer=li \
 //thickness=0.1 //x=1.165 //y=7.41 //x2=1.165 //y2=6.585
r49 (  7 42 ) resistor r=4.65 //w=0.17 //l=0.34 //layer=mcon //count=2 \
 //x=1.97 //y=7.58 //x2=1.97 //y2=7.58
r50 (  3 40 ) resistor r=3.1 //w=0.17 //l=0.51 //layer=mcon //count=3 //x=1.23 \
 //y=7.58 //x2=1.23 //y2=7.58
r51 (  1 7 ) resistor r=0.148714 //w=0.311 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=7.585 //x2=1.97 //y2=7.585
r52 (  1 3 ) resistor r=0.148714 //w=0.311 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=7.585 //x2=1.23 //y2=7.585
ends PM_INVX1\%VDD

subckt PM_INVX1\%A ( 1 2 3 4 5 6 7 9 17 23 28 32 33 34 35 36 37 38 42 43 44 46 \
 52 53 55 )
c75 ( 55 0 ) capacitor c=0.0588117f //x=1.23 //y=2.265
c76 ( 53 0 ) capacitor c=0.0439576f //x=1.87 //y=1.435
c77 ( 52 0 ) capacitor c=0.0201087f //x=1.87 //y=1.09
c78 ( 46 0 ) capacitor c=0.0161986f //x=1.715 //y=1.59
c79 ( 44 0 ) capacitor c=0.0157807f //x=1.715 //y=0.935
c80 ( 43 0 ) capacitor c=0.0556866f //x=1.46 //y=4.97
c81 ( 42 0 ) capacitor c=0.0406047f //x=1.75 //y=4.97
c82 ( 38 0 ) capacitor c=0.0301471f //x=1.34 //y=2.1
c83 ( 37 0 ) capacitor c=0.0255349f //x=1.34 //y=1.745
c84 ( 36 0 ) capacitor c=0.0234346f //x=1.34 //y=1.435
c85 ( 35 0 ) capacitor c=0.02013f //x=1.34 //y=1.09
c86 ( 34 0 ) capacitor c=0.153839f //x=1.825 //y=6.2
c87 ( 33 0 ) capacitor c=0.15434f //x=1.385 //y=6.2
c88 ( 28 0 ) capacitor c=9.4527e-19 //x=1.23 //y=4.88
c89 ( 23 0 ) capacitor c=9.11699e-19 //x=1.23 //y=2.265
c90 ( 17 0 ) capacitor c=0.0180969f //x=1.23 //y=2.265
c91 ( 9 0 ) capacitor c=0.0106559f //x=1.23 //y=4.76
c92 ( 1 0 ) capacitor c=0.102457f //x=1.23 //y=2.77
r93 (  55 56 ) resistor r=17.5563 //w=0.302 //l=0.11 //layer=ply \
 //thickness=0.18 //x=1.23 //y=2.265 //x2=1.34 //y2=2.265
r94 (  53 62 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.87 //y=1.435 //x2=1.83 //y2=1.59
r95 (  52 61 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.87 //y=1.09 //x2=1.83 //y2=0.935
r96 (  52 53 ) resistor r=176.904 //w=0.094 //l=0.345 //layer=ply \
 //thickness=0.18 //x=1.87 //y=1.09 //x2=1.87 //y2=1.435
r97 (  47 60 ) resistor r=10.701 //w=0.21 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.495 //y=1.59 //x2=1.38 //y2=1.59
r98 (  46 62 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.715 //y=1.59 //x2=1.83 //y2=1.59
r99 (  45 59 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.495 //y=0.935 //x2=1.38 //y2=0.935
r100 (  44 61 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.715 //y=0.935 //x2=1.83 //y2=0.935
r101 (  44 45 ) resistor r=112.809 //w=0.094 //l=0.22 //layer=ply \
 //thickness=0.18 //x=1.715 //y=0.935 //x2=1.495 //y2=0.935
r102 (  42 49 ) resistor r=26.9307 //w=0.15 //l=0.106066 //layer=ply \
 //thickness=0.18 //x=1.75 //y=4.97 //x2=1.825 //y2=5.045
r103 (  42 43 ) resistor r=148.702 //w=0.094 //l=0.29 //layer=ply \
 //thickness=0.18 //x=1.75 //y=4.97 //x2=1.46 //y2=4.97
r104 (  39 43 ) resistor r=23.403 //w=0.284 //l=0.106066 //layer=ply \
 //thickness=0.18 //x=1.385 //y=5.045 //x2=1.46 //y2=4.97
r105 (  39 58 ) resistor r=26.3063 //w=0.284 //l=0.229783 //layer=ply \
 //thickness=0.18 //x=1.385 //y=5.045 //x2=1.23 //y2=4.88
r106 (  38 56 ) resistor r=19.1248 //w=0.302 //l=0.165 //layer=ply \
 //thickness=0.18 //x=1.34 //y=2.1 //x2=1.34 //y2=2.265
r107 (  37 60 ) resistor r=39.5823 //w=0.21 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.34 //y=1.745 //x2=1.38 //y2=1.59
r108 (  37 38 ) resistor r=182.032 //w=0.094 //l=0.355 //layer=ply \
 //thickness=0.18 //x=1.34 //y=1.745 //x2=1.34 //y2=2.1
r109 (  36 60 ) resistor r=39.5823 //w=0.21 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.34 //y=1.435 //x2=1.38 //y2=1.59
r110 (  35 59 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.34 //y=1.09 //x2=1.38 //y2=0.935
r111 (  35 36 ) resistor r=176.904 //w=0.094 //l=0.345 //layer=ply \
 //thickness=0.18 //x=1.34 //y=1.09 //x2=1.34 //y2=1.435
r112 (  34 49 ) resistor r=592.245 //w=0.094 //l=1.155 //layer=ply \
 //thickness=0.18 //x=1.825 //y=6.2 //x2=1.825 //y2=5.045
r113 (  33 39 ) resistor r=592.245 //w=0.094 //l=1.155 //layer=ply \
 //thickness=0.18 //x=1.385 //y=6.2 //x2=1.385 //y2=5.045
r114 (  32 46 ) resistor r=56.4043 //w=0.094 //l=0.11 //layer=ply \
 //thickness=0.18 //x=1.605 //y=1.59 //x2=1.715 //y2=1.59
r115 (  32 47 ) resistor r=56.4043 //w=0.094 //l=0.11 //layer=ply \
 //thickness=0.18 //x=1.605 //y=1.59 //x2=1.495 //y2=1.59
r116 (  28 58 ) resistor r=152 //w=0.17 //l=0.17 //layer=licon //count=1 \
 //x=1.23 //y=4.88 //x2=1.23 //y2=4.88
r117 (  23 55 ) resistor r=152 //w=0.17 //l=0.17 //layer=licon //count=1 \
 //x=1.23 //y=2.265 //x2=1.23 //y2=2.265
r118 (  21 28 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 \
 //x=1.23 //y=4.88 //x2=1.23 //y2=4.88
r119 (  17 23 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 \
 //x=1.23 //y=2.265 //x2=1.23 //y2=2.265
r120 (  9 21 ) resistor r=0.0732479 //w=0.241 //l=0.122474 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=4.76 //x2=1.235 //y2=4.88
r121 (  7 8 ) resistor r=0.0360744 //w=0.211 //l=0.03 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=2.4 //x2=1.23 //y2=2.43
r122 (  7 17 ) resistor r=0.0799763 //w=0.211 //l=0.135 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=2.4 //x2=1.23 //y2=2.265
r123 (  6 9 ) resistor r=0.133588 //w=0.131 //l=0.14 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=4.62 //x2=1.23 //y2=4.76
r124 (  5 6 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=4.25 //x2=1.23 //y2=4.62
r125 (  4 5 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=3.88 //x2=1.23 //y2=4.25
r126 (  3 4 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=3.51 //x2=1.23 //y2=3.88
r127 (  2 3 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=3.14 //x2=1.23 //y2=3.51
r128 (  1 2 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=2.77 //x2=1.23 //y2=3.14
r129 (  1 8 ) resistor r=0.324427 //w=0.131 //l=0.34 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=2.77 //x2=1.23 //y2=2.43
ends PM_INVX1\%A

subckt PM_INVX1\%Y ( 1 2 3 4 5 6 7 9 11 12 13 14 15 26 36 43 45 )
c66 ( 43 0 ) capacitor c=0.00869746f //x=1.415 //y=1.09
c67 ( 36 0 ) capacitor c=0.0263113f //x=1.605 //y=5.56
c68 ( 26 0 ) capacitor c=0.0228822f //x=1.6 //y=1.185
c69 ( 15 0 ) capacitor c=0.00714889f //x=1.69 //y=5.14
c70 ( 14 0 ) capacitor c=0.00944012f //x=1.885 //y=5.14
c71 ( 13 0 ) capacitor c=0.00882254f //x=1.685 //y=2.02
c72 ( 12 0 ) capacitor c=0.0145753f //x=1.885 //y=2.02
c73 ( 11 0 ) capacitor c=0.0131413f //x=1.605 //y=5.42
c74 ( 9 0 ) capacitor c=0.0232241f //x=1.6 //y=1.935
c75 ( 1 0 ) capacitor c=0.118899f //x=1.97 //y=2.4
r76 (  36 45 ) resistor r=23.615 //w=0.187 //l=0.345 //layer=li \
 //thickness=0.1 //x=1.605 //y=5.56 //x2=1.605 //y2=5.905
r77 (  29 36 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 \
 //x=1.605 //y=5.56 //x2=1.605 //y2=5.56
r78 (  26 43 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 //x=1.6 \
 //y=1.185 //x2=1.6 //y2=1.185
r79 (  14 17 ) resistor r=0.0698411 //w=0.17 //l=0.120208 //layer=m1 \
 //thickness=0.36 //x=1.885 //y=5.14 //x2=1.97 //y2=5.055
r80 (  14 15 ) resistor r=0.186069 //w=0.131 //l=0.195 //layer=m1 \
 //thickness=0.36 //x=1.885 //y=5.14 //x2=1.69 //y2=5.14
r81 (  12 16 ) resistor r=0.0698411 //w=0.17 //l=0.120208 //layer=m1 \
 //thickness=0.36 //x=1.885 //y=2.02 //x2=1.97 //y2=2.105
r82 (  12 13 ) resistor r=0.19084 //w=0.131 //l=0.2 //layer=m1 \
 //thickness=0.36 //x=1.885 //y=2.02 //x2=1.685 //y2=2.02
r83 (  11 29 ) resistor r=0.086672 //w=0.218 //l=0.14 //layer=m1 \
 //thickness=0.36 //x=1.605 //y=5.42 //x2=1.605 //y2=5.56
r84 (  10 15 ) resistor r=0.0698411 //w=0.17 //l=0.120208 //layer=m1 \
 //thickness=0.36 //x=1.605 //y=5.225 //x2=1.69 //y2=5.14
r85 (  10 11 ) resistor r=0.186069 //w=0.131 //l=0.195 //layer=m1 \
 //thickness=0.36 //x=1.605 //y=5.225 //x2=1.605 //y2=5.42
r86 (  9 13 ) resistor r=0.0698411 //w=0.17 //l=0.120208 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=1.935 //x2=1.685 //y2=2.02
r87 (  8 26 ) resistor r=0.105739 //w=0.201 //l=0.145 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=1.33 //x2=1.6 //y2=1.185
r88 (  8 9 ) resistor r=0.57729 //w=0.131 //l=0.605 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=1.33 //x2=1.6 //y2=1.935
r89 (  7 17 ) resistor r=0.415076 //w=0.131 //l=0.435 //layer=m1 \
 //thickness=0.36 //x=1.97 //y=4.62 //x2=1.97 //y2=5.055
r90 (  6 7 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.97 //y=4.25 //x2=1.97 //y2=4.62
r91 (  5 6 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.97 //y=3.88 //x2=1.97 //y2=4.25
r92 (  4 5 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.97 //y=3.51 //x2=1.97 //y2=3.88
r93 (  3 4 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.97 //y=3.14 //x2=1.97 //y2=3.51
r94 (  2 3 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.97 //y=2.77 //x2=1.97 //y2=3.14
r95 (  1 2 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.97 //y=2.4 //x2=1.97 //y2=2.77
r96 (  1 16 ) resistor r=0.281489 //w=0.131 //l=0.295 //layer=m1 \
 //thickness=0.36 //x=1.97 //y=2.4 //x2=1.97 //y2=2.105
ends PM_INVX1\%Y

